US04006252
Three tenths of a part of the di-(3,5-di-tert-butyl-2-hydroxyphenyl) bromomethane produced above is dissolved in 20 parts of ethanol and placed in the reaction vessel just above described. One part of 5 percent aqueous sodium hydroxide solution is added and a slow current of nitrogen is passed through the solution for 20 minutes. The reaction mixture is poured into a vessel containing crushed ice, neutralized with acetic acid and extracted with ether. The ether is evaporated and the residue crystallized twice from aqueous ethanol to yield (3,5-di-tert-butyl-2-oxo-3,5-cyclohexadien-1-ylidene)-(3,5-di-tert-butyl-2-hydroxyphenyl) methane.

reactant | di-(3,5-di-tert-butyl-2-hydroxyphenyl) bromomethane | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C(Br)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)O | C29H43BrO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | (3,5-di-tert-butyl-2-oxo-3,5-cyclohexadien-1-ylidene)-(3,5-di-tert-butyl-2-hydroxyphenyl) methane | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=CC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)=O | C29H42O2
